US04564386
A solution of diethylamine (1 g) and 3-methyl-4-(trifluoromethanesulfonamido)benzenesulfonyl chloride (1.5 g) in tetrahydrofuran (20 ml) was allowed to stand overnight. The resultant mixture was concentrated and shaken with chloroform and 5% aqueous hydrochloric acid. The chloroform extract was concentrated and recrystallized from a mixture of ethanol and water to give 0.97 g of N,N-diethyl-3-methyl-4-(trifluoromethanesulfonamido)benzenesulfonamide. M.P., 128°-128.5° C.

reactant | diethylamine | 1 g | C(C)NCC | C4H11N
reactant | 3-methyl-4-(trifluoromethanesulfonamido)benzenesulfonyl chloride | 1.5 g | CC=1C=C(C=CC1NS(=O)(=O)C(F)(F)F)S(=O)(=O)Cl | C8H7ClF3NO4S2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N,N-diethyl-3-methyl-4-(trifluoromethanesulfonamido)benzenesulfonamide | 0.97 g | C(C)N(S(=O)(=O)C1=CC(=C(C=C1)NS(=O)(=O)C(F)(F)F)C)CC | C12H17F3N2O4S2
